US07358248B2
(2R)-Methyl-2-amino-3-[4′indol-1-yl-biphen-4-ylmethylsulfanyl]propionate
TMSI (1.56 mL, 10.63 mmol) was added dropwise to a stirred solution of (2R)-methyl-tert-butoxycarbonylamino-3-(4′-indol-1-ylbiphen-4-ylmethylsulfanyl)-propionate (4.47 g, 8.66 mmol) in anhydrous methylene chloride (50 mL). The reaction was stirred for 10 mins. and then poured into 1N sodium bicarbonate solution (50 mL), extracted with ethyl acetate (3×50 mL). The combined extract was washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification of the product by flash column chromatography, using 5% methanol in methylene chloride as eluent, afforded the title compound as a yellow oil (3.43 g, 95%): Rf=0.65 (10% methanol in dichloromethane). 1H NMR (DMSO-d6, 300 MHz): δ 7.86 (2H, d, J=8 Hz, Ar—H), 7.64-7.72 (6H, m, Ar—H), 7.61 (1H, d, J=8 Hz, Ar—H), 7.42 (1H, d, J=8 Hz, Ar—H), 7.21 (1H, td, J=7, 2 Hz, Ar—H), 7.14 (1H, td, J=7, 2 Hz, Ar—H), 6.72 (1H, d, J=3.5 Hz, Ar—H), 3.80 (2H, s, PhCH2), 3.62 (3H, s, OMe), 3.56 (1H, t, J=6.5 Hz, CHN), 2.68 (1H, dd, J=6.5, 3 Hz, CHHCHN), 2.63 (1H, dd, J=6.5, 3 Hz, CHHCHN), 2.04 (2H, br s, NH2).

reactant | TMSI | 10.63 mmol, 1.56 mL | [Si](C)(C)(C)I | C3H9ISi
reactant | (2R)-methyl-tert-butoxycarbonylamino-3-(4′-indol-1-ylbiphen-4-ylmethylsulfanyl)-propionate | 8.66 mmol, 4.47 g | C[C@@](C(=O)[O-])(CSCC1=CC=C(C=C1)C1=CC=C(C=C1)N1C=CC2=CC=CC=C12)NC(=O)OC(C)(C)C
reactant | sodium bicarbonate | 1N, 50 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | (2R)-Methyl-2-amino-3-[4′indol-1-yl-biphen-4-ylmethylsulfanyl]propionate | 3.43 g, 95% | COC([C@H](CSCC1=CC=C(C=C1)C1=CC=C(C=C1)N1C=CC2=CC=CC=C12)N)=O | C25H24N2O2S
